US08476302B2
A solution of benzyl((5-(4-(benzyloxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate (7.4 g, 17.1 mmol) in 33% HBr in acetic acid (100 mL) and was stirred for 2 h. The resulting mixture was diluted with diethyl ether and the precipitate was collected and washed with diethyl ether to yield 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol (MS m/z=408 MH+).

reactant | benzyl((5-(4-(benzyloxy)phenyl)-1,3,4-thiadiazol-2-yl)methyl)carbamate | 17.1 mmol, 7.4 g | C(C1=CC=CC=C1)OC(NCC=1SC(=NN1)C1=CC=C(C=C1)OCC1=CC=CC=C1)=O | C24H21N3O3S
solvent | HBr | Br | BrH
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-(5-(aminomethyl)-1,3,4-thiadiazol-2-yl)phenol | NCC1=NN=C(S1)C1=CC=C(C=C1)O | C9H9N3OS
